US05480883
3-phenoxy-6,7-dimethylquinoline
To a solution of Nail (1.2g; 60% disp in oil) in DMF (3 ml) is added 3-hydroxy-6.7-dimethoxyquinoline (150 mg; 0.73 tool) and the reaction mixture is allowed to stir for 30 minutes at room temperature. To this is added the tetrafluoroborate salt of chlorobenzene manganese tricarbonyl complex (prepared by J.O.C. 24: 1991;7092) (183 mg) and stirred for 3 hours. To this is added 20 ml of acetonitrile and stirred overnight. The reaction mixture is dissolved in EtOAc: brine and extracted 2× with EtOAc, washed with water 2×, washed with brine, dried (MgSO4) and concentrated in vacuo to obtain a material which is purified by FPLC using 1% methanol: chloroform to obtain a solid which NMR indicates to be 3-phenoxy-6.7-dimethoxyquinoline. The hydrochloride salt is then prepared in the usual manner m.p. 224-226).

reactant | 3-hydroxy-6.7-dimethoxyquinoline | 150 mg | OC=1C=NC2=CC(=C(C=C2C1)OC)OC | C11H11NO3
reactant | tetrafluoroborate | F[B-](F)(F)F
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
reactant | 3-phenoxy-6.7-dimethoxyquinoline | O(C1=CC=CC=C1)C=1C=NC2=CC(=C(C=C2C1)OC)OC | C17H15NO3
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-phenoxy-6,7-dimethylquinoline | O(C1=CC=CC=C1)C=1C=NC2=CC(=C(C=C2C1)C)C | C17H15NO
